US04863920
250 mg (0.85 mmol) of (S)-8-chloro-1-ethynyl-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one was suspended in 5 ml of N,N-dimethylformamide. 50 mg (1 mmol) of sodium hydride dispersion (55% in oil) was washed with n-hexane and then introduced into the above suspension. After 10 minutes 0.1 ml (1.5 mmol) of methyl iodide was added thereto and the mixture was stirred at room temperature for a further 4.5 hours. The mixture was poured into 50 ml of water and extracted four times with methylene chloride. The organic extracts were washed four times with water, dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel while eluting with ethyl acetate and recrystallization from ethyl acetate and hexane there was obtained (S)-8-chloro-11,12,13,13a-tetrahydro-1-propynyl-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 205°-20°.

reactant | (S)-8-chloro-1-ethynyl-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.85 mmol, 250 mg | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#C)CCC1)=O | C16H12ClN3O
reactant | sodium hydride | 1 mmol, 50 mg | [H-].[Na+]
reactant | methyl iodide | 1.5 mmol, 0.1 ml | CI | CH3I
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | (S)-8-chloro-11,12,13,13a-tetrahydro-1-propynyl-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#CC)CCC1)=O | C17H14ClN3O
